US07700638B2
5-Cyano-7-iodo-1-phenylbenzimidazole (1.0 g, 2.90 mmol), 3-hydroxymethyl-phenylboronic acid (440 mg, 2.90 mmol) and tetrakis(triphenylphosphine)palladium(0) (330 mg, 2.90 mmol) were dissolved in toluene (8.0 ml) and ethanol (2.0 ml). Potassium carbonate (2M in water, 2.9 ml, 800 mg, 5.8 mmol) was added and the reaction mixture heated at reflux under a nitrogen atmosphere for 16 h. The reaction mixture was passed through a plug of silica gel using dichloromethane/methanol (19:1) to elute. The organic phase was concentrated under reduced pressure and the resultant gum triturated with ethyl acetate and dichloromethane. 5-Cyano-7-(3-hydroxymethylphenyl)-1-phenylbenzimidazole was obtained as an off-white solid (500 mg, 39%) m/z, 326.2 (M+H)+.

reactant | 5-Cyano-7-iodo-1-phenylbenzimidazole | 2.90 mmol, 1.0 g | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)I | C14H8IN3
reactant | 3-hydroxymethyl-phenylboronic acid | 2.90 mmol, 440 mg | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | Potassium carbonate | 5.8 mmol, 2M, 2.9 ml, 800 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane methanol | ClCCl.CO
solvent | toluene | 8.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.90 mmol, 330 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Cyano-7-(3-hydroxymethylphenyl)-1-phenylbenzimidazole | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)C1=CC(=CC=C1)CO | C21H15N3O
